US07399868B2
2-(tert-butyl-dimethyl-silanyl)-4-(hydroxy-thiophen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide (Intermediate-E1) (2.5 g, 6.2 mmol) in THF (60 mL) was treated with tetrabutylammonium fluoride (TBAF) (6.9 mL of a 1M soln) at 0° C. for 1 h and at rt for 3 h. The reaction mixture was subjected to an aqueous work-up and the product was purified by chromatography on silica gel with EtOAc to give 4-(hydroxy-thiophen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide as a white solid, 1.43 g. 4-(Hydroxy-thiophen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide (0.5 g, 1.74 mmol) in dichloromethane (25 mL) was reacted with trifluoroacetic acid (4.3 mL, 56 mmol) and triethylsilane (TES) (2.2 mL, 14 mmol) at rt for 18 h. The mixture was quenched with water and solid NaHCO3. This material was subjected to an aqueous work-up and the residue was purified by chromatography on silica gel with 50% EtOAc: hexane to yield 4-thiophen-2-ylmethyl-imidazole-1-sulfonic acid dimethylamide (Intermediate-E2) 0.44 g.

reactant | 2-(tert-butyl-dimethyl-silanyl)-4-(hydroxy-thiophen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide | 6.2 mmol, 2.5 g | CN(S(=O)(=O)N1C(=NC(=C1)C(C=1SC=CC1)O)[Si](C)(C)C(C)(C)C)C | C16H27N3O3S2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-(hydroxy-thiophen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide | CN(S(=O)(=O)N1C=NC(=C1)C(C=1SC=CC1)O)C | C10H13N3O3S2
